US04550203
N-Isopropyl-N-cyanacetamide
31.8 g (0.30 mol) of sodium acetylcyanamide are dissolved in 75 ml of dimethylformamide at 100° C., and 36.9 g (0.30 mol) of isopropyl bromide are added dropwise in the course of 11/2 hours. The mixture is allowed to afterreact at 100° C. for 3 hours, and then 200 ml of acetone are added and the NaBr which has precipitated is filtered off with suction (28.2 g=0.27 mol). The acetone is then removed on a rotary evaporator and the residue is distilled under a waterpump vacuum in order to isolate all the distillable constituents. Fractional distillation of this distillate over a spinning bank column give 14.3 g (37.8% of theory) of a product of boiling point 107° C./90 mbar which, according to gas chromatography, is a single product.

reactant | sodium acetylcyanamide | 0.30 mol, 31.8 g | C(C)(=O)NC#N.[Na]
reactant | isopropyl bromide | 0.30 mol, 36.9 g | C(C)(C)Br | C3H7Br
reactant | acetone | 200 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | N-Isopropyl-N-cyanacetamide | C(C)(C)N(C(C)=O)C#N | C6H10N2O
